US06900213B2
A solution of 15 g (51 mmol) of 4-iodo-D,L-phenylalanine and 16.2 ml (127.5 mmol) of Me3SiCl in 150 mL of dichloromethane was heated at reflux for 1 h under N2. The reaction mixture was cooled to 0° C. with an ice bath and 17.7 mL (127 mmol) of triethyl amine was added, followed by 5.83 mL (61.2 mmol) of acetic anhydride. The mixture was stirred at 0° C. for 30 min, then warmed up to room temperature and stirred for another 30 min. The reaction was quenched by adding 1M aqueous sodium hydroxide and then the mixture was acidified with 2M aqueous hydrogen chloride to pH 1. The precipitate was collected by filtration and dried under vacuum to afford 16 g (95%) of N-acetyl-4-iodophenylalanine as a white solid: 1H NMR (DMSO-d6) 8.19 (d, 1H), 7.61 (d, 2H), 7.02 (d, 2H), 4.39-4.31 (m, 1H), 3.01-2.92 (dd, 1H), 3.80-2.69 (dd, 1H), 2.67 (s, 3H).

reactant | 4-iodo-D,L-phenylalanine | 51 mmol, 15 g | IC1=CC=C(CC(N)C(=O)O)C=C1 | C9H10INO2
reactant | Me3SiCl | 127.5 mmol, 16.2 ml | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | triethyl amine | 127 mmol, 17.7 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 61.2 mmol, 5.83 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-acetyl-4-iodophenylalanine | 16 g, 95% | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)I)C(=O)O | C11H12INO3
